US05112829
To a suspension of 3-ethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (5.0 g) in dry tetrahydrofuran (150 ml) was added potassium t-butoxide (3.0 g), with stirring. After 20 mins, methyl iodide (1.66 ml) was added, and the reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated, diluted with saturated potassium carbonate solution, and extracted with 2-butanone. The organic extracts were dried over anhydrous magnesium sulfate and concentrated. The residue was adhered to silica (methanol) and flash chromatographed (50% ethyl acetate/hexane). The appropriate fractions were concentrated and the residue was triturated with diethyl ether to give 3.59 g (68%) of 3-ethyl-1,3,9,10,11,12-hexahydro-1-methyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one.

reactant | 3-ethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 5.0 g | C(C)C1OC2=C3C(NC1=O)=C1CCCCC1=NC3=CC=C2 | C17H18N2O2
reactant | potassium t-butoxide | 3.0 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 1.66 ml | CI | CH3I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-ethyl-1,3,9,10,11,12-hexahydro-1-methyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 3.59 g, 68% | C(C)C1OC2=C3C(N(C1=O)C)=C1CCCCC1=NC3=CC=C2 | C18H20N2O2
